US04939262
6-Ethyl-4-hydroxy-1H-2-pyridone
119 g (0.564 mol) of 3-carbethoxy-6-ethyl-4-hydroxy-1H-2-pyridone are heated under reflux for two hours in a mixture of 1l of water with 155 g (2.77 mol) of KOH. After cooling, the mixture is adjusted to pH 4 using concentrated HCl, cooled again and filtered with suction.

reactant | 3-carbethoxy-6-ethyl-4-hydroxy-1H-2-pyridone | 0.564 mol, 119 g | C(=O)(OCC)C=1C(NC(=CC1O)CC)=O | C10H13NO4
reactant | KOH | 2.77 mol, 155 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 6-Ethyl-4-hydroxy-1H-2-pyridone | C(C)C1=CC(=CC(N1)=O)O | C7H9NO2
